US05502065
1-(t-butoxycarbonyl)-3-(1-methylpyrrolidin-2(R )-ylmethyl)-5-(tri-n-butylstannyl)-indole
5-Bromo-1-(t-butyloxycarbonyl)-3-(1-methylpyrrolidin -2(R)-ylmethyl)-indole (see Preparation 51 ) was reacted with hexa(n-butyl)distannane in the presence of tri-o-tolyphosphine, triethylamine and palladium (II) acetate using a procedure similar to that described in Preparation 1. This yielded the title compound.

reactant | 5-Bromo-1-(t-butyloxycarbonyl)-3-(1-methylpyrrolidin -2(R)-ylmethyl)-indole | BrC=1C=C2C(=CN(C2=CC1)C(=O)OC(C)(C)C)C[C@@H]1N(CCC1)C | C19H25BrN2O2
reactant | hexa(n-butyl)distannane | C(CCC)[Sn]([Sn](CCCC)(CCCC)CCCC)(CCCC)CCCC
reactant | tri-o-tolyphosphine | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3C | C21H21P
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-(t-butoxycarbonyl)-3-(1-methylpyrrolidin-2(R )-ylmethyl)-5-(tri-n-butylstannyl)-indole | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=CC=C12)[Sn](CCCC)(CCCC)CCCC)C[C@@H]1N(CCC1)C | InChI=1S/C19H25N2O2.3C4H9.Sn/c1-19(2,3)23-18(22)21-13-14(12-15-8-7-11-20(15)4)16-9-5-6-10-17(16)21;3*1-3-4-2;/h6,9-10,13,15H,7-8,11-12H2,1-4H3;3*1,3-4H2,2H3;/t15-;;;;/m1..../s1
